US07825256B2
A mixture of (2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)methanamine hydrochloride (20.4 g, 90.3 mmol) and triethylamine (60.0 mL, 452 mmol) in dichloromethane (300 mL) was stirred at room temperature for 30 min then the mixture was concentrated under vacuum. The residue was dissolved in toluene (500 mL) then benzophenone (57.5 g, 316 mmol) and p-toluenesulfonic acid monohydrate (4.50 g, 23.7 mmol) were added to the solution. The mixture was heated to 110° C. for 12 h then concentrated under vacuum. The residue was extracted with ethyl acetate (2×500mL), washed with water (2×100 mL), dried over anhydrous sodium sulfate and concentrated. The product was purified using column chromatography (1:10 EtOAc/hexanes to EtOAc) to afford benzhydrylidene-(2-imidazol-1-yl-6-methyl-pyrimidin-4-ylmethyl)-amine as a yellow solid (14.0 g, 42.6%).

reactant | (2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)methanamine hydrochloride | 90.3 mmol, 20.4 g | Cl.N1(C=NC=C1)C1=NC(=CC(=N1)CN)C
reactant | triethylamine | 452 mmol, 60.0 mL | C(C)N(CC)CC | C6H15N
reactant | benzophenone | 316 mmol, 57.5 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | p-toluenesulfonic acid monohydrate | 23.7 mmol, 4.50 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | benzhydrylidene-(2-imidazol-1-yl-6-methyl-pyrimidin-4-ylmethyl)-amine | 14.0 g, 42.6% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NCC1=NC(=NC(=C1)C)N1C=NC=C1 | C22H19N5
